US08202858B2
4-Bromomethyl-3-fluorobenzoic Acid Methyl Ester
3-Fluoro-4-methylbenzoic acid methyl ester from Example E3.1 (4.5 g, 26.6 mmol) was dissolved in carbon tetra-chloride (150 ml). AIBN (457 mg, 2.7 mmol) and N-bromosuccinimide (5.2 g, 29.3 mmol) were added and the mixture was heated at reflux for 18 h. The mixture was allowed to cool and further portions of AIBN (457 mg, 2.7 mmol) and N-bromosuccinimide (5.2 g, 29.3 mmol) were added. The mixture was heated at reflux for 56 h. The mixture was allowed to cool and evaporated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% EtOAc:90% pet ether) to yield the title compound (2.7 g, 41%).

reactant | 3-Fluoro-4-methylbenzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)F)=O | C9H9FO2
reactant | AIBN | 2.7 mmol, 457 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromosuccinimide | 29.3 mmol, 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 2.7 mmol, 457 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromosuccinimide | 29.3 mmol, 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetra-chloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-3-fluorobenzoic Acid Methyl Ester | 2.7 g, 41% | COC(C1=CC(=C(C=C1)CBr)F)=O | C9H8BrFO2
